US06903124B2
Into a 1L three-neck flask, ethanesulfonic acid (11.56 g, 1.05 equivalents) and methanol (200 ml) were poured. To the flask, a solution of amlodipine (40.8 g, 0.1 mole) in methanol (300 ml) was added dropwise. The resulting solution was stirred at 23° C. for 2 hours, cooled to 7° C. and stirred again for 1 hour to produce precipitates. They were washed at 5° C. with methanol (100 ml) and n-hexane (100 ml), filtered, and dried at 35° C. in vacuo to afford 46.4 g of amlodipine ethanesulfonate as a white crystalline solid (Yield 90%).

reactant | ethanesulfonic acid | 11.56 g, 1.05 equivalents | C(C)S(=O)(=O)O | C2H6O3S
reactant | amlodipine | 0.1 mole, 40.8 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | amlodipine ethanesulfonate | 46.4 g, Yield 90% | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN.C(C)S(=O)(=O)[O-] | InChI=1S/C20H25ClN2O5.C2H6O3S/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;1-2-6(3,4)5/h5-8,17,23H,4,9-11,22H2,1-3H3;2H2,1H3,(H,3,4,5)/p-1
